US07335660B2
b) 2-[(1S)-6-(1H-Pyrazol-1-yl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate
Prepared from 2-[(1S)-6-(1H-pyrazol-1-yl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethanol and methanesulfonyl chloride, as described for the preparation of 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate.

reactant | 2-[(1S)-6-(1H-pyrazol-1-yl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethanol | N1(N=CC=C1)C=1C=CC2=C(CCO[C@H]2CCO)C1 | C14H16N2O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C13H17NO5S
product | 2-[(1S)-6-(1H-Pyrazol-1-yl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)N2N=CC=C2 | C15H18N2O4S
